US04948795
To a solution of 2-(3-pyridyl)thiazolidine-4-carboxylic acid 630 mg, 1-[3-(1-imidazolyl)propyl]piperazine 580 mg, 1-hydroxybenztriazole 410 mg and N,N-dimethylformamide 15 ml was added dicyclohexylcarbodiimide 620 mg under ice-cooling and then stirred overnight at room temperature. Ethyl acetate 100 ml was added to the solution, the resultant unsoluble matter filtered off and the solution washed with saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride in succession. After drying over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, ethyl acetate added to the residue, the unsoluble matter filtered off and the solution concentrated to dryness under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography (eluent: 20% methanol - ethyl acetate) to give an oily product. This was dissolved in ethyl acetate 30 ml, 2N hydrogen chloride - dioxane 4 ml added and the precipitated powder filtered off to give 620 mg of 1-[3-(1-imidazolyl)propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine.4 hydrochloride.

reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 630 mg | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 1-[3-(1-imidazolyl)propyl]piperazine | 580 mg | N1(C=NC=C1)CCCN1CCNCC1 | C10H18N4
reactant | 1-hydroxybenztriazole | 410 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 620 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methanol - ethyl acetate | C(C)CC(=O)OC | C5H10O2
solvent | ethyl acetate | 2N, 30 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[3-(1-imidazolyl)propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine | 620 mg | N1(C=NC=C1)CCCN1CCN(CC1)C(=O)C1NC(SC1)C=1C=NC=CC1 | C19H26N6OS
